US08754226B2
(S)-tert-Butyl 4-(3-(4-bromo-2-fluorophenoxy)-2-oxopyrrolidin-1-yl)piperidine-1-carboxylate (1.8 g, 3.9 mmol) was dissolved in DMSO (30 mL) and purged with nitrogen. Sodium methanesulfinate (0.60 g, 5.9 mmol) and trans-cyclohexane-1,2-diamine (0.19 mL, 1.6 mmol) were added followed by Cu(I) triflate benzene complex (0.20 g, 0.39 mmol). The reaction was plunged into a 110° C. oil bath under nitrogen and stirred overnight. The reaction was cooled to ambient temperature, partitioned between water and EtOAc, extracted with EtOAc, washed with brine, dried over Na2SO4, filtered and concentrated. The residue was purified over silica gel (100% EtOAc) to afford (S)-tert-butyl 4-(3-(2-fluoro-4-(methylsulfonyl)phenoxy)-2-oxopyrrolidin-1-yl)piperidine-1-carboxylate (1.6 g, 3.5 mmol, 89% yield) as a white solid.

reactant | (S)-tert-Butyl 4-(3-(4-bromo-2-fluorophenoxy)-2-oxopyrrolidin-1-yl)piperidine-1-carboxylate | 3.9 mmol, 1.8 g | BrC1=CC(=C(O[C@@H]2C(N(CC2)C2CCN(CC2)C(=O)OC(C)(C)C)=O)C=C1)F | C20H26BrFN2O4
reactant | Sodium methanesulfinate | 5.9 mmol, 0.60 g | CS(=O)[O-].[Na+]
reactant | trans-cyclohexane-1,2-diamine | 1.6 mmol, 0.19 mL | [C@@H]1([C@@H](CCCC1)N)N | C6H14N2
solvent | DMSO | 30 mL | CS(=O)C | C2H6OS
product | (S)-tert-butyl 4-(3-(2-fluoro-4-(methylsulfonyl)phenoxy)-2-oxopyrrolidin-1-yl)piperidine-1-carboxylate | 3.5 mmol, 1.6 g, 89% yield | FC1=C(O[C@@H]2C(N(CC2)C2CCN(CC2)C(=O)OC(C)(C)C)=O)C=CC(=C1)S(=O)(=O)C | C21H29FN2O6S
